US06846819B1
b) 6-Bromo-3-methyl-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one
To a solution of dimethyl carbonate (2.14 g, 23.7 mmole) and sodium methoxide (1.0 mL, 4.5 mmole, 25% wt in CH3OH) in CH3OH (25 mL) was added 2-amino-5-bromo-3-(methylaminomethyl)pyridine (I 0.0 g, 4.62 mmole). The reaction was heated at 50° C. overnight, diluted with H2O (1 mL) and concentrated. Toluene was added to the reaction residue and the contents were heated to reflux for 12 hr under a Dean-Stark apparatus. The reaction was cooled to RT, diluted with EtOAc, and washed with H2O. Purification on silica gel (9:1 CHCl3/CH3OH containing 5% NH4OH) gave the title compound (0.75 g, 67%) as an off-white solid: MS (ES) m/e 243 (M+H)+.

reactant | dimethyl carbonate | 23.7 mmole, 2.14 g | C(OC)(OC)=O | C3H6O3
reactant | sodium methoxide | 4.5 mmole, 1.0 mL | C[O-].[Na+]
reactant | 2-amino-5-bromo-3-(methylaminomethyl)pyridine | 4.62 mmole, 0.0 g | NC1=NC=C(C=C1CNC)Br | C7H10BrN3
solvent | CH3OH | 25 mL | CO | CH4O
solvent | H2O | 1 mL | O | H2O
product | 6-Bromo-3-methyl-3,4-dihydro-1H-pyrido[2,3-d]pyrimidin-2-one | 0.75 g, 67% | BrC1=CC2=C(NC(N(C2)C)=O)N=C1 | C8H8BrN3O
